US08871756B2
N˜1˜-(2-Chloro-6-methylquinazolin-4-yl)-2-methylpropane-1,2-diamine
A solution of 2,4-dichloro-6-methylquinazoline (500 mg, 2.35 mmol) and 2-methylpropane-1,2-diamine (365 μL, 3.52 mmol) in methanol (10 mL) was stirred at room temperature for 1 hour. The reaction mixture was diluted with ethyl acetate (30 mL) and stirred for 30 minutes. The formed solid was collected by filtration and dried in vacuo to afford 500 mg of the desired product as a white solid (yield was 80.6%).

reactant | 2,4-dichloro-6-methylquinazoline | 2.35 mmol, 500 mg | ClC1=NC2=CC=C(C=C2C(=N1)Cl)C | C9H6Cl2N2
reactant | 2-methylpropane-1,2-diamine | 3.52 mmol, 365 μL | CC(CN)(C)N | C4H12N2
solvent | methanol | 10 mL | CO | CH4O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | N˜1˜-(2-Chloro-6-methylquinazolin-4-yl)-2-methylpropane-1,2-diamine | 500 mg, yield was 80.6% | ClC1=NC2=CC=C(C=C2C(=N1)NCC(C)(N)C)C | C13H17ClN4
